US05112848
To a solution of furan (10.7 mL, 0.147 mol) in 100 mL of THF at 0° C. was added n-butyllithium (65 mL, 0.149 mol). The reaction was stirred 3 h and was cooled to -78° C. To the reaction flask was then slowly added 2-methoxy-ethoxymethylchloride (16.8 mL, 0.147 mol) in 100 mL THF. The solution was warmed to -20° C. and allowed to stir until the solution was clear. It was then quenched with saturated ammonium chloride solution (50mL) and the aqueous layer was washed with ethyl acetate (3×, 50 mL). The combined organic layer was washed with brine, dried (MgSO4), filtered and evaporated to yield 18 g of crude product. Distillation under high vacuum yielded 14.5 g (63%) of 2-methoxyethoxy-methylfuran.

reactant | furan | 0.147 mol, 10.7 mL | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 0.149 mol, 65 mL | C(CCC)[Li]
reactant | 2-methoxy-ethoxymethylchloride | 0.147 mol, 16.8 mL | COCCOCCl | C4H9ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-methoxyethoxy-methylfuran | 14.5 g, 63% | COCCOC1=C(OC=C1)C | C8H12O3
